US08604207B2
N-[6-(4-formylphenoxy)pyridin-3-yl]methanesulfonamide
{4-[(5-nitropyridin-2-yl)oxy]phenyl}methanol was subjected to reduction of nitro group by using zinc and acetic acid, the obtained compound reacted with methanesulfonyl chloride in pyridine, and the obtained compound was subjected to oxidation by using manganese dioxide to give the title compound having the following physical data.

reactant | {4-[(5-nitropyridin-2-yl)oxy]phenyl}methanol | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)CO | C12H10N2O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | zinc | [Zn] | Zn
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | N-[6-(4-formylphenoxy)pyridin-3-yl]methanesulfonamide | C(=O)C1=CC=C(OC2=CC=C(C=N2)NS(=O)(=O)C)C=C1 | C13H12N2O4S
